US07262212B2
Trifluoroacetic acid (8 ml) was added to a solution of tert-butyl 4-(4-chlorobenzyl)piperazine-1-carboxylate (2.50 g, 8.05 mmol) prepared in Reference Example 178 in methylene chloride (16 ml), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure. Sodium hydroxide aqueous solution was added to the residue, and the mixture was extracted with methylene chloride. The extract was dried over sodium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to afford 1-(4-chlorobenzyl)piperazine (1.70 g, quantitative) as a colorless oil.

reactant | Trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-chlorobenzyl)piperazine-1-carboxylate | 8.05 mmol, 2.50 g | ClC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23ClN2O2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorobenzyl)piperazine | 1.70 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
